US07494984B2
N-(4Fluorobenzyl)-6-hydroxy-1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-a]pyrimidine-7-carboxamide
A solution of N-(4-fluorobenzyl)-6-(benzyloxy)-1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-a]pyrimidine-7-carboxamide (0.202 g, 0.495 mmol) in a mixture of ethyl acetate (150 ml) and ethanol (20 ml) at 25° C. was hydrogenated over 10% palladium on activated carbon (50 mg) and under one atmosphere of hydrogen for one hour to give 0.130 g (83% yield) of the title compound as white needles; mp 212° C. (ethyl acetate). 1HNMR 400 MHz (CDCl3) δ (ppm): 2.93 (3H, s, CH3), 3.63 (2H, t, J=8.6 Hz, CH2), 4.14 (2H, t, J=8.6 Hz, CH2), 4.59 (2H, d, J=6.0 Hz, NCH2), 7.07 (2H, m, aromatics), 7.33 (2H, m, aromatics), 7.89 (1H, broad t, NH), 11.57 (1H, s, OH). HRMS (ESI+) calculated for C15H16FN4O3 [M+H+]: 319.1206. found: 319.1191.

reactant | N-(4-fluorobenzyl)-6-(benzyloxy)-1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-a]pyrimidine-7-carboxamide | 0.495 mmol, 0.202 g | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2OCC2=CC=CC=C2)=O)CCN3C)C=C1 | C22H21FN4O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
product | N-(4Fluorobenzyl)-6-hydroxy-1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-a]pyrimidine-7-carboxamide | 0.130 g, 83% yield | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCN3C)C=C1 | C15H15FN4O3
